US05534481
Preparation of 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide (Intermediate No. 189)
A mixture comprising 62 g (221 mmol) of 4-cyclopropylmethoxy-2-methyl-2H-indazole-3-sulfonamide, 120 ml of acetic acid and 120 ml of concentrated hydrochloric acid, was stirred at 80° C. for one hour. After concentrating acetic acid-hydrochloric acid, the mixture was poured into ice water. Crystals were collected by filtration and washed with water. Further, the crystals were washed with IPE and dried to obtain 35.1 g (yield: 70%) of the desired product. Melting point: 180°-181° C.

reactant | 4-cyclopropylmethoxy-2-methyl-2H-indazole-3-sulfonamide | 221 mmol, 62 g | C1(CC1)COC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C12H15N3O3S
reactant | hydrochloric acid | 120 ml | Cl | ClH
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide | 35.1 g, yield: 70% | OC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H9N3O3S
